US07544812B2
A solution of (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester (26.6 g, 0.155 mol) in DMF (500 mL) was treated with 4-methoxybenzyl chloride (26.6 g, 0.170 mol), MgSO4 (18.6 g, 0.154 mol) and then 325 mesh K2CO3 (42.71 g, 0.309 mol) at 0° C. The resultant mixture was warmed to room temperature under N2 and then heated at 45° C. for 4 h. The reaction mixture was filtered, and then aqueous 1N HCl (200 mL) was added to the filtrate. The filtrate was extracted with EtOAc and the organic layer dried (MgSO4). The solvent was removed in vacuo to give 11.43 g crude product which was purified by flash chromatography using a gradient of 3:1 to 1:1 hexanes:acetone to give 9.81 g (22%) [1-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester. MS (ES+) Calc'd for C14H17N2O5 (M+1) 293. Found m/z 293 (100%). 1H NMR.

reactant | (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester | 0.155 mol, 26.6 g | COC(CC1NC(NC1=O)=O)=O | C6H8N2O4
reactant | 4-methoxybenzyl chloride | 0.170 mol, 26.6 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | MgSO4 | 0.154 mol, 18.6 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | K2CO3 | 0.309 mol, 42.71 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | [1-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester | 9.81 g, 22% | COC(CC1NC(N(C1=O)CC1=CC=C(C=C1)OC)=O)=O | C14H16N2O5
